US05093335
(1) Preparation of 2-amino-3-chloro-5,6-dicyanopyrazine
5.0 g (0.025 mol) of 2,3-dichloro-5,6-dicyanopyrazine was dissolved in 50 ml of dry tetrahydrofuran, and 6.1 g (0.050 mol) of 28% aqueous ammonia was dropwise added at a temperature of from -15°to 0° C. After completion of the dropwise addition, the mixture was stirred for 1 hour, and the reaction solution was poured into 500 ml of water. The precipitated solid was collected by filtration and recrystallized from a solvent mixture of toluene and ethyl acetate to obtain 4.2 g of slightly yellow crystals (yield: 93.6%, melting point: 205-208° C.).

reactant | 2,3-dichloro-5,6-dicyanopyrazine | 0.025 mol, 5.0 g | ClC1=NC(=C(N=C1Cl)C#N)C#N | C6Cl2N4
reactant | ammonia | 0.050 mol, 6.1 g | N | H3N
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-amino-3-chloro-5,6-dicyanopyrazine | yield: 93.6% | NC1=NC(=C(N=C1Cl)C#N)C#N | C6H2ClN5
